US07173129B2
4-[3E-(2,4-Dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]-N-[3-(4-methyl-piperazin-1-yl)propyl]benzenesulfonamide
A solution 4-acetyl-N-[3-(4-methylpiperazin-1-yl)propyl]benzenesulfonamide (Ex-55A, 830 mg, 2.44 mmol) and 2,4-dimethoxy-5-pyrrolidin-1-ylbenzaldehyde (Ex-38B, 575 mg, 2.44 mmol) in DMF (10.8 mL) and MeOH (4.4 mL) was treated with lithium methoxide (278 mg, 7.32 mmol) and stirred for 20 h at room temperature under nitrogen atmosphere. The reaction mixture was quenched with water (75 mL) and extracted ethyl acetate (3×50 mL). The combined organic phase was brined, dried over sodium sulfate, and concentrated to a red solid. Column chromatography (5% MeOH in dichloromethane) gave 772 mg (57%) of the title compound as a brown solid, mp 64–68° C. 1H-NMR (300 MHz, DMSO-d6) 8.23 (d, 2H, J=8.7), 8.05 (d, 1H, J=15.3 Hz), 7.88 (d, 2H, J=7.5 Hz), 7.76 (t, 1H, J=4.8 Hz), 7.63 (d, 1H, J=15.3 Hz), 7.16 (s, 1H), 6.67 (s, 1H), 3.86 (s, 6H), 3.16 (br s, 4H), 2.76 (quartet, 2H, J=6.9 Hz), 2.15 (m, 10H), 2.06 (s, 3H), 1.80 (br s, 4H), 1.45 (quintet, 2H, J=6.9 Hz). HRMS (ESI) Calcd. for C29H40N4O5S: 557.2798 [(M+H)+]; Found: 557.2798.

reactant | 4-acetyl-N-[3-(4-methylpiperazin-1-yl)propyl]benzenesulfonamide | 2.44 mmol, 830 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1CCN(CC1)C | C16H25N3O3S
reactant | 2,4-dimethoxy-5-pyrrolidin-1-ylbenzaldehyde | 2.44 mmol, 575 mg | COC1=C(C=O)C=C(C(=C1)OC)N1CCCC1 | C13H17NO3
reactant | lithium methoxide | 7.32 mmol, 278 mg | C[O-].[Li+]
solvent | DMF | 10.8 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 4.4 mL | CO | CH4O
product | 4-[3E-(2,4-Dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]-N-[3-(4-methyl-piperazin-1-yl)propyl]benzenesulfonamide | 772 mg, 57% | COC1=C(C=C(C(=C1)OC)N1CCCC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1CCN(CC1)C | C29H40N4O5S
